### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): basic API about truncation

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 1]
```diff
@@ -199,6 +199,11 @@ def constantCoeff : R⟦X⟧ →+* R :=
 def C : R →+* R⟦X⟧ :=
   MvPowerSeries.C Unit R
 
+@[simp] lemma algebraMap_eq {R : Type*} [CommSemiring R] : algebraMap R R⟦X⟧ = C R := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:202]:
```suggestion
@[simp] lemma algebraMap_eq : algebraMap R R⟦X⟧ = C R := rfl
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -199,6 +199,11 @@ def constantCoeff : R⟦X⟧ →+* R :=
...
+
+@[simp] lemma smul_def (r : R) (p : R⟦X⟧) : r • p = C R r * p :=
+  MvPowerSeries.smul_eq_C_mul _ _
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:205]: Can we keep the name matching `MvPowerSeries`?

File: Mathlib/RingTheory/PowerSeries/Trunc.lean [hunk 3]
```diff
@@ -129,6 +129,20 @@ lemma trunc_X_of {n : ℕ} (hn : 2 ≤ n) : trunc n X = (Polynomial.X : R[X]) :=
...
     | succ n => exact trunc_X n
 
+@[simp]
+lemma trunc_one_left (p : R⟦X⟧) : trunc (R := R) 1 p = .C (coeff R 0 p) := by
+  ext i; simp +contextual [coeff_trunc, Polynomial.coeff_C]
+
+lemma trunc_one_X : trunc (R := R) 1 X = 0 := by simp
+
+@[simp]
+lemma trunc_C_mul (n) (r : R) (f : R⟦X⟧) : trunc n (C R r * f) = .C r * trunc n f := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/PowerSeries/Trunc.lean:139]:
```suggestion
lemma trunc_C_mul (n : ℕ) (r : R) (f : R⟦X⟧) : trunc n (C R r * f) = .C r * trunc n f := by
```
throughout

**Review by eric-wieser — COMMENTED** [review]
Can you add the analogous results for `MvPowerSeries`, if appropriate?

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:202]: Oh, I guess `R` is not commutative here, so you really do need a new variable.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
